US04055597
A solution of ethylmagnesium bromide in 400 ml. of ether is prepared in the usual manner from magnesium (12.2 g., 0.5 mole) and ethyl bromide (56.5 g., 0.52 mole). To this solution, (3S)-3-(2-tetrahydropyranyloxy)-1-octyne (88.2 g., 0.42 mole) is added dropwise with stirring during one hour. The reaction mixture is stirred an additional 45 minutes, and there is added triethyl orthoformate (81.4 g., 0.55 mole) dropwise during 30 minutes. The mixture is then refluxed 16 hours. It is poured into 500 ml. of iced saturated ammonium chloride solution. The oily product is taken up in ether, washed with water, dried over sodium sulfate and distilled to obtain (4S)-1,1-diethoxy-4-(2-tetrahydropyranyloxy)-2-nonyne.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | magnesium | 0.5 mole, 12.2 g | [Mg] | Mg
reactant | ethyl bromide | 0.52 mole, 56.5 g | C(C)Br | C2H5Br
reactant | (3S)-3-(2-tetrahydropyranyloxy)-1-octyne | 0.42 mole, 88.2 g | O1C(CCCC1)O[C@H](C#C)CCCCC | C13H22O2
reactant | triethyl orthoformate | 0.55 mole, 81.4 g | C(OCC)(OCC)OCC | C7H16O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | (4S)-1,1-diethoxy-4-(2-tetrahydropyranyloxy)-2-nonyne | C(C)OC(C#C[C@H](CCCCC)OC1OCCCC1)OCC | C18H32O4
